US06469004B1
Step b: Preparation of 4-amino-2,3-difluoro-5-nitrobenzoic acid
Solid 5-nitro-2,3,4-trifluorobenzoic acid (0.75 g, 0.00339 mol) was dissolved in concentrated ammonium hydroxide (25 ml) to give instantly a yellow solution. A precipitate began to form within five minutes, after which time the mixture was acidified to pH 0 with concentrated aqueous hydrochloric acid. A yellow precipitate rapidly formed. The mixture was heated to boiling and was filtered hot. The yellow solids were washed with 10% aqueous hydrochloric acid and were suction dried to afford 0.47 g of a yellow powder; 64% yield; 1H-NMR (400 MHz; DMSO) δ13.32 (s, 1H), 8.36 (d, 1H, J=7.6 Hz), 7.98 (s, 2H); 19F-NMR (376 MHz; DMSO) δ−128.69 to −128.76 (m), −153.60 (d).

reactant | 5-nitro-2,3,4-trifluorobenzoic acid | 0.00339 mol, 0.75 g | [N+](=O)([O-])C=1C(=C(C(=C(C(=O)O)C1)F)F)F | C7H2F3NO4
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium hydroxide | 25 ml | [OH-].[NH4+]
product | 4-amino-2,3-difluoro-5-nitrobenzoic acid | 0.47 g, 64% yield | NC1=C(C(=C(C(=O)O)C=C1[N+](=O)[O-])F)F | C7H4F2N2O4
